US03953436
Benzhydryl 7-(2-thienylacetamido)-3-chlorocarbonyl-2-cephem-4-carboxylate reacts with 1.1 equivalents of methoxyamine in tetrahydrofuran at -76° C. to give benzhydryl 7-(2-thienylacetamido)-3-methoxyaminocarbonyl-2-cephem-4-carboxylate. 4'-Methoxybenzyl 7-butyramido-3-methylcarbonyldioxycarbonyl-3-cephem-4-carboxylate reacts with 1.1 equivalents phenylhydroxylamine in methylene chloride at -76° C. to provide 4'-methoxybenzyl 7-butyramido-3-phenylhydroxaminocarbonyl-3-cephem-4-carboxylate.

reactant | Benzhydryl 7-(2-thienylacetamido)-3-chlorocarbonyl-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C(=O)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H21ClN2O5S2
reactant | methoxyamine | 1.1 equivalents | CON | CH5NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | benzhydryl 7-(2-thienylacetamido)-3-methoxyaminocarbonyl-2-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C(=O)NOC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H25N3O6S2
